US08492582B2
Water (0.60 mL), sodium carbonate (88 mg), tert-butyl methyl(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)carbamate (0.13 g), and bis(triphenylphosphine)palladium(II) dichloride (5.0 mg) were added to an ethylene glycol dimethyl ether (2.0 mL) solution of tert-butyl 4-bromo-2-(5-phenylpyridine-3-carboxamido)benzoate (0.15 g), followed by heating to reflux under a nitrogen atmosphere for 1 hour. The reaction mixture was cooled to room temperature, and then a 10% aqueous solution of citric acid and ethyl acetate were added thereto. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 95-85% hexane/ethyl acetate] to obtain 0.16 g of tert-butyl 4-(4-((tert-butoxycarbonyl)(methyl)amino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate as a white solid.

reactant | sodium carbonate | 88 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | tert-butyl methyl(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)carbamate | 0.13 g | CN(C(OC(C)(C)C)=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H28BNO4
reactant | tert-butyl 4-bromo-2-(5-phenylpyridine-3-carboxamido)benzoate | 0.15 g | BrC1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C23H21BrN2O3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 5.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethylene glycol dimethyl ether | 2.0 mL | COCCOC | C4H10O2
solvent | Water | 0.60 mL | O | H2O
product | tert-butyl 4-(4-((tert-butoxycarbonyl)(methyl)amino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate | 0.16 g | C(C)(C)(C)OC(=O)N(C1=CC=C(C=C1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1)C | C35H37N3O5
